US07741341B2
100 mg (0.45 mmol) 1,3-Dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purine-8-carboxylic acid were dissolved in 5 mL DMF. Subsequently 227 μl (1.35 mmol) DIPEA and 186.5 mg (0.495 mmol) HATU were added. After 1 h 105.6 mg (0.495 mmol) 1-isopropyl-piperidine-4-ylamine-dihydrochloride and 227 μl (1.35 mmol) DIPEA were added and the resulting mixture was stirred at room temperature for 4 h. The reaction mixture was concentrated and purified by preparative RP-HPLC (CH3CN/H2O gradient+0.05% formic acid) to give 1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purine-8-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide as its formiate.

reactant | 1,3-Dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purine-8-carboxylic acid | 0.45 mmol, 100 mg | CN1C(N(C=2N=C(NC2C1=O)C(=O)O)C)=O | C8H8N4O4
reactant | DIPEA | 1.35 mmol, 227 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.495 mmol, 186.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-isopropyl-piperidine-4-ylamine-dihydrochloride | 0.495 mmol, 105.6 mg | Cl.Cl.C(C)(C)N1CCC(CC1)N
reactant | DIPEA | 1.35 mmol, 227 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purine-8-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=NC=2N(C(N(C(C2N1)=O)C)=O)C | C16H24N6O3
